US08871797B2
4-Fluoro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole (205 mg, 0.817 mmol) in EtOH (25 mL) was treated with Sn(II) chloride dihydrate (626.3 mg, 2.45 mmol) and heated to 50° C. for 12 hours. The reaction was allowed to cool to room temperature and 10% NaOH (100 ml) was added. EtOAc (50 ml) was added and the organic layer was separated. The aqueous layer was extracted with EtOAc (2×50 mL) and the organics combined, dried over Na2SO4, filtered, and the solvent removed under reduced pressure. The residue was dissolved in DMSO (5 ml), and purified by preparative HPLC to afford 85 mg (47%) of 3-(4-fluoro-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine as a light brown oil. LCMS m/z (%)=222 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ: 7.38 (d, JH,F=4.8 Hz, 1H), 6.86 (d, J=8.8 Hz, 1H), 6.79 (dd, J1=8.8 Hz, J2=2.8 Hz, 1H), 6.64 (d, J=2.8 Hz, 1H), 3.75 (s, 3H), 3.69 (s, 3H), 3.21 (s, 2H). 19F NMR (376 MHz, CDCl3) δ: −175.50 (d, JH,F=5.3 Hz, 1F).

reactant | 4-Fluoro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole | 0.817 mmol, 205 mg | FC=1C=NN(C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C | C11H10FN3O3
reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 25 mL | CCO | C2H6O
product | 3-(4-fluoro-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine | 85 mg, 47% | FC1=C(N(N=C1)C)C=1C=C(C=CC1OC)N | C11H12FN3O
